* A dual opamp ngspice model
* file name: OPA4171.lib
.subckt OPA4171 1 2 3 4 5 6 7 8 9 10 11 12 13 14
.include OPA171.LIB
XA 3 2 4 11 1 OPA171
XB 5 6 4 11 7 OPA171
XC 10 9 4 11 8 OPA171
XD 12 13 4 11 14 OPA171
.ends