* A dual opamp ngspice model
* file name: OPA1678dual.lib
.subckt OPA1678dual 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+
.include OPA1678.LIB
XU1A 1in+ 1in- vcc+ vcc- 1out OPA1678
XU1B 2in+ 2in- vcc+ vcc- 2out OPA1678
.ends