.subckt SPDT 1 2 3
E1 sw1 0 vol = '5.0 - position'
E2 sw2 0 vol = 'position'
S1 1 2 sw1 0 DGSWITCH
S2 2 3 sw2 0 DGSWITCH
.model DGSWITCH SW (VT=3 VH=0 RON=30 ROFF=1e6)
.param position=0
.ends
